**************************************
*      Model Generated by MODPEX     *
*Copyright(c) Symmetry Design Systems*
*         All Rights Reserved        *
*    UNPUBLISHED LICENSED SOFTWARE   *
*   Contains Proprietary Information *
*      Which is The Property of      *
*     SYMMETRY OR ITS LICENSORS      *
*    Modeling services provided by   *
* Interface Technologies www.i-t.com *
**************************************
.SUBCKT bdx54c 1 2 3
* Model generated on Jan 31, 2004
* Model format: PSpice
* Darlington macro model
* External node designations
* Node 1 -> Collect
* Node 2 -> Base
* Node 3 -> Emitter
Q1 1 2 4 qmodel
Q2 1 4 3 q1model 8.33905
D1 1 3 dmodel
R1 2 4 8000
R2 4 3 120
* Default values used in dmodel
*   EG=1.11 TT=0 BV=infinite
.MODEL dmodel d
+IS=1e-12 RS=10 N=1 XTI=3
+CJO=0 VJ=0.75 M=0.33 FC=0.5
.MODEL qmodel pnp
+IS=1.56186e-12 BF=188.227 NF=1.1739 VAF=105.358
+IKF=0.113314 ISE=3.87694e-13 NE=1.50183 BR=0.996711
+NR=0.914768 VAR=101.604 IKR=0.0999754 ISC=1e-13
+NC=2 RB=13.4402 IRB=0.231192 RBM=10.9425
+RE=0.113908 RC=1.10586 XTB=0.488781 XTI=2.99692 EG=1.05
+CJE=2.60341e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=2.47462e-10
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.MODEL q1model pnp
+IS=1.56186e-12 BF=188.227 NF=1.1739 VAF=105.358
+IKF=0.113314 ISE=3.87694e-13 NE=1.50183 BR=0.996711
+NR=0.914768 VAR=101.604 IKR=0.0999754 ISC=1e-13
+NC=2 RB=13.4402 IRB=0.231192 RBM=10.9425
+RE=0.113908 RC=1.10586 XTB=0.488781 XTI=2.99692 EG=1.05
+CJE=2.60341e-10 VJE=0.95 MJE=0.23 TF=1e-09
+XTF=1 VTF=10 ITF=0.01 CJC=0
+VJC=0.95 MJC=0.23 XCJC=0.9 FC=0.5
+TR=1e-07 PTF=0 KF=0 AF=1
.ENDS
